US07211587B2
N-[4-(Tert-butyl)-1,3-thiazol-2-yl]-N′-{2-chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea
2-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (30 mg) was dissolved in chloroform (3 ml) to prepare a solution. Triethylamine (0.3 ml) and a solution of triphosgene (27 mg) in chloroform (0.2 ml) were then added thereto, and the mixture was stirred at room temperature for 30 min. Next, a solution of 2-amino-4-t-butylthiazole (64 mg) in chloroform (0.6 ml) was added thereto, and the mixture was further stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was subjected to separatory extraction with chloroform. The extract was washed with saturated brine and was dried over anhydrous sodium sulfate. The organic layer was concentrated under the reduced pressure, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give 14 mg of the title compound.

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 30 mg | ClC1=C(N)C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
reactant | Triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 27 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-4-t-butylthiazole | 64 mg | NC=1SC=C(N1)C(C)(C)C | C7H12N2S
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | N-[4-(Tert-butyl)-1,3-thiazol-2-yl]-N′-{2-chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 14 mg | C(C)(C)(C)C=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)Cl | C25H25ClN4O4S
